US05281620
A two-phase mixture of crude 1-bromomethyl-4-methyl-2-phenylmethoxybenzene (21.84 g, 75 mmol), NaCN (11.0 g, 0.22 mol), tetrabutylammonium bromide (2.4 g, 7.5 mmol), water (25 ml) and CH2Cl2 (50 ml) was stirred at room temperature for 1 hour and the layers were separated. The organic layer was washed well with water to remove tetrabutylammonium salts and after drying (CaCl2) the solvent was removed to give (4-methyl-2-phenylmethoxyphenyl)acetonitrile (17.8 g, 100% crude yield) as an oil.

reactant | 1-bromomethyl-4-methyl-2-phenylmethoxybenzene | 75 mmol, 21.84 g | BrCC1=C(C=C(C=C1)C)OCC1=CC=CC=C1 | C15H15BrO
reactant | NaCN | 0.22 mol, 11.0 g | [C-]#N.[Na+]
reactant | water | 25 ml | O | H2O
catalyst | tetrabutylammonium bromide | 7.5 mmol, 2.4 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | (4-methyl-2-phenylmethoxyphenyl)acetonitrile | 17.8 g | CC1=CC(=C(C=C1)CC#N)OCC1=CC=CC=C1 | C16H15NO
